US04002762
A solution of 37.5 g of 2,6-diamino-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester and 6.8 g of sodium ethylate in 500 ml of ethanol was treated with 15 g of methyl iodide at the boil. After a further 60 minutes under reflux, the mixture was concentrated by distillation. The residue is taken up in 300 ml of chloroform and extracted by shaking twice with 100 ml of water, and the organic phase is concentrated. Recrystallization of the residue from ethanol gave 2.6-diamino-3-methyl-4-(3'-nitrophenyl)-3,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 142° C (18 g, 41.5% of theory).

reactant | 2,6-diamino-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | 37.5 g | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)N)N | C17H20N4O6
reactant | sodium ethylate | 6.8 g | CC[O-].[Na+]
reactant | methyl iodide | 15 g | CI | CH3I
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2.6-diamino-3-methyl-4-(3'-nitrophenyl)-3,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1(C(=NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)N)N)C | C18H22N4O6
